US04104248
Preparation of N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl) ethylenediamine
162.75 g (1.05 moles) of 2,2,6,6-tetramethyl-4-piperidone dissolved in 200 cc of methanol, 30 g (0.5 moles) of ethylenediamine dissolved in 40 cc of methanol, and 0.5 g of Pt (at 10% on carbon) were introduced into a 1 liter autoclave, and the mixture hydrogenated at 80° C and 50 atm pressure for 2 hours.

reactant | 2,2,6,6-tetramethyl-4-piperidone | 1.05 moles, 162.75 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
reactant | ethylenediamine | 0.5 moles, 30 g | C(CN)N | C2H8N2
solvent | methanol | 200 cc | CO | CH4O
solvent | methanol | 40 cc | CO | CH4O
product | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl) ethylenediamine | CC1(NC(CC(C1)NCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C20H42N4
